US09428470B2
B) 3-(5,5-Bis(2-tert-butoxy-2-oxoethyl)-4,5-dihydro-1,2-oxazol-3-yl)-4-(3-(1,1-dioxidothiomorpholin-4-yl)-3-oxopropyl)phenyl 4-carbamimidamidobenzoate
4-Carbamimidamidobenzoyl chloride hydrochloride (56.4 mg) was added to a mixture of di-tert-butyl 2,2′-(3-(2-(3-(1,1-dioxidothiomorpholin-4-yl)-3-oxopropyl)-5-hydroxyphenyl)-4,5-dihydro-1,2-oxazole-5,5-diyl)diacetate (140 mg), pyridine (0.2 mL), and NMP (0.2 mL) at 50 C, and the obtained mixture was stirred at 50 C for 30 minutes. 4-Carbamimidamidobenzoyl chloride hydrochloride (56.4 mg) was further added thereto, and the obtained mixture was stirred at 50 C for 30 minutes. 4-Carbamimidamidobenzoyl chloride hydrochloride (56.4 mg) was further added thereto, and the obtained mixture was stirred at 50 C for 3 hours. Pyridine (0.2 mL) and NMP (0.2 mL) were further added thereto, 4-carbamimidamidobenzoyl chloride hydrochloride (56.4 mg) was added thereto, and then, the obtained mixture was stirred at 50 C for 30 minutes. 4-Carbamimidamidobenzoyl chloride hydrochloride (56.4 mg) was further added thereto, and the obtained mixture was stirred at 50 C for 30 minutes. 4-carbamimidamidobenzoyl chloride hydrochloride (56.4 mg) was further added thereto, and the obtained mixture was stirred overnight at 50 C. To the reaction mixture, acetonitrile was added. The precipitate was filtered off, and then, the filtrate was concentrated under reduced pressure. The residue was fractionated by HPLC (C18, mobile phase: water/acetonitrile (system containing 0.1% TFA)). To the obtained fraction, a saturated aqueous solution of sodium bicarbonate was added, followed by extraction with ethyl acetate. The extract was dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure to obtain the title compound (49.0 mg).

reactant | 4-Carbamimidamidobenzoyl chloride hydrochloride | 56.4 mg | Cl.N(C(=N)N)C1=CC=C(C(=O)Cl)C=C1
reactant | di-tert-butyl 2,2′-(3-(2-(3-(1,1-dioxidothiomorpholin-4-yl)-3-oxopropyl)-5-hydroxyphenyl)-4,5-dihydro-1,2-oxazole-5,5-diyl)diacetate | 140 mg | O=S1(CCN(CC1)C(CCC1=C(C=C(C=C1)O)C1=NOC(C1)(CC(=O)OC(C)(C)C)CC(=O)OC(C)(C)C)=O)=O | C28H40N2O9S
reactant | pyridine | 0.2 mL | N1=CC=CC=C1 | C5H5N
reactant | NMP | 0.2 mL | CN1CCCC1=O | C5H9NO
reactant | 4-Carbamimidamidobenzoyl chloride hydrochloride | 56.4 mg | Cl.N(C(=N)N)C1=CC=C(C(=O)Cl)C=C1
reactant | 4-Carbamimidamidobenzoyl chloride hydrochloride | 56.4 mg | Cl.N(C(=N)N)C1=CC=C(C(=O)Cl)C=C1
reactant | Pyridine | 0.2 mL | N1=CC=CC=C1 | C5H5N
reactant | NMP | 0.2 mL | CN1CCCC1=O | C5H9NO
reactant | 4-carbamimidamidobenzoyl chloride hydrochloride | 56.4 mg | Cl.N(C(=N)N)C1=CC=C(C(=O)Cl)C=C1
reactant | 4-Carbamimidamidobenzoyl chloride hydrochloride | 56.4 mg | Cl.N(C(=N)N)C1=CC=C(C(=O)Cl)C=C1
reactant | 4-carbamimidamidobenzoyl chloride hydrochloride | 56.4 mg | Cl.N(C(=N)N)C1=CC=C(C(=O)Cl)C=C1
solvent | acetonitrile | C(C)#N | C2H3N
product | 3-(5,5-Bis(2-tert-butoxy-2-oxoethyl)-4,5-dihydro-1,2-oxazol-3-yl)-4-(3-(1,1-dioxidothiomorpholin-4-yl)-3-oxopropyl)phenyl 4-carbamimidamidobenzoate | 49.0 mg | N(C(=N)N)C1=CC=C(C(=O)OC2=CC(=C(C=C2)CCC(=O)N2CCS(CC2)(=O)=O)C2=NOC(C2)(CC(OC(C)(C)C)=O)CC(=O)OC(C)(C)C)C=C1 | C36H47N5O10S
